US06143764
6,7-Dimethoxy-4-(3-methoxyphenoxy)quinoline [2]
4-Chloro-6,7-dimethoxyquinoline (103 mg) and commercially available 3-methoxyphenol (158 mg) were mixed and stirred at 160° C. for 9 hours. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with sodium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by chromatography on silica gel eluting with hexane/ethyl acetate to obtain 29 mg of the title compound (yield: 52%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 103 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-methoxyphenol | 158 mg | COC=1C=C(C=CC1)O | C7H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6,7-Dimethoxy-4-(3-methoxyphenoxy)quinoline | 29 mg, yield: 52% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=CC=C1)OC | C18H17NO4
